US07994163B2
Dissolve 7-chloro-6-(1H-imidazol-2-ylthiomethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine hydrochloride (9.85 g, 29.85 mmol) in water (60 mL) and absolute ethanol (40 mL) in a flask. Add a solution of Na2CO3 (15.8 g, 149 mmol) in water (100 mL) followed by DCM (125 mL) to the flask. Stir the mixture vigorously, then separate layers. Extract the aqueous layer twice with a solution of DCM (100 mL) and ethanol (10 mL). Dry the combined organic extracts over Na2SO4. Filter and concentrate in vacuo to obtain 7-chloro-6-(1H-imidazol-2-ylthiomethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a light yellow foam (7.4 g, 75% weight recovery). MS (APCI+) m/z: 294.25 (M+H)+.

reactant | 7-chloro-6-(1H-imidazol-2-ylthiomethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine hydrochloride | 29.85 mmol, 9.85 g | Cl.ClC1=C(C2=C(CCNCC2)C=C1)CSC=1NC=CN1
reactant | Na2CO3 | 149 mmol, 15.8 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | DCM | 125 mL | C(Cl)Cl | CH2Cl2
solvent | water | 60 mL | O | H2O
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | water | 100 mL | O | H2O
product | 7-chloro-6-(1H-imidazol-2-ylthiomethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | ClC1=C(C2=C(CCNCC2)C=C1)CSC=1NC=CN1 | C14H16ClN3S
